datasets/10k__Tet_Int.csv
SMILES Labelled
"[O-:21][C:20]1(OCC)C(O)C(C)C([H])C(CCC)[O+:10]1([Na])>>[O:10]([Na])C(CCC)C([H])C(C)C(O)[C:20](OCC)=[O:21] 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)[H])CC)CCCCCC)[O-:10])[H]>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])[H])CC)CCCCCC)[H] 10=20;20,21=21"
"CC[S+:10]([H])[C:20]1([O:21]C)[S][CH](C)C(C)[CH](C)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](C)[CH](C)C(C)[S]2.CC[S:10][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[S]C([H])C(C)[S]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[S]C([H])C(C)[S]1 10=20;20,21=21"
"[O:10]([Na])C(CC)C([H])C(C)C(O)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(O)C(C)C([H])C(CC)[O+:10]1([Na]) 10=20;20,21=21"
"CC[NH:10][H].CC[NH+:21]=[C:20]([NH][H])[O]C.[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]([NH:21]CC)([NH][H])[O]C 10=20;20,21=21"
"[H][NH:10]C(C)C([H])C(C)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][O:10]C(C)C([H])[S][C:20]([O]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])[S]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C(CC)[S]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21][H])[S]C(C7=CC=CC=C7)C(CC)[S]1 10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1[H])CCCCCC)[H].[O-:21]C>>[H]C1C(C(O[C:20](N1[H])([O-:10])[O:21]C)CCCCCC)[H] 21=20;20,10=10"
"[O-:10]C(CCC)/C(O)=C([C:20]([H])=[O:21])/O>>[O-:21][C:20]1([H])[O:10]C(CCC)C(O)=C1O 10=20;20,21=21"
"[O-:10]C(C(C1=C(C=CC=C1)[CH:20]([H])=[O:21])O)C>>[O-:21][CH:20]2([H])C3=C(C(C([O:10]2)C)O)C=CC=C3  10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CC)CCCCCC)[O-:10])CC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CC)CCCCCC)CC 10=20;20,21=21"
"[H][NH:10]C(C)C([H])C(CC)[O][C:20]([O][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C(CC)[O]1)[C:20]1([NH:21]CC)[O][H] 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])C1=CC=CC=C1)CC>>CCN([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])C1=CC=CC=C1)[O-:10])CC 21=20;20,10=10"
"[OH:21][C:20]2(C)C(C(C)C3=C([NH+:10]2(C))C=CC=C3)O>>[NH:10](C)C(C=CC=C1)=C1C(C)C([C:20](C)=[OH+:21])O 21=20;20,10=10"
"CC[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]CC)[S][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]CC)[S][H] 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH]([H])C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C([H])[O]2.[H][NH:10][H] 21=20;20,10=10"
"[H][O:10]C(CC)C([H])[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])[NH]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10](C(C)C([H])C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C([H])[NH][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C1=CC=CC=C1C1C(O[C:20](=[O:10])N1CC)CC.[O-:21]C>>C1=CC=CC=C1C1C(O[C:20](N1CC)([O-:10])[O:21]C)CC 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)[H])[H]>>CCCCCCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])[H].[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[O]C.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH][C:20]([O]C)=[NH+:21]CC 21=20;20,10=10"
"[H][NH:10]C(C)C([H])C(C)[NH][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC 10=20;20,21=21"
"C9=CC=CC=C9[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]CC)[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]CC)[O]C 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C([H])[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](C)C(C)[CH]([H])[NH]1 10=20;20,21=21"
"[H][O+:10](C(CC)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[NH]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C8=CC=CC=C8)[NH][C:20]([NH]C)=[NH+:21]C 21=20;20,10=10"
"[H][NH:10]C(CC)C(C)C(CC)[NH][C:20]([NH]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)C(CC)[NH]1)[C:20]1([NH:21]C)[NH]C 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)[H])CC)C1=CC=CC=C1)[O-:10])CCCCCC>>[H]N([C:20](=[O:10])OC(C(C([O-:21])[H])CC)C1=CC=CC=C1)CCCCCC 10=20;20,21=21"
"CC1C(C(O[C:20](=[O:10])N1CCCCCC)CCCCCC)[H].[O-:21][H]>>CC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21][H])CCCCCC)[H] 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH][C:20]([NH]CC)=[NH+:21][H] 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)[H])C)[H])[O-:10])CCCCCC>>CN([C:20](=[O:10])OC(C(C([O-:21])[H])C)[H])CCCCCC 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1[H])([O-:10])[O:21]C)[H])CC>>CCCCCCC1C(C(O[C:20](=[O:10])N1[H])[H])CC.[O-:21]C 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C([H])[CH](CC)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(CC)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](N1[H])([O-:10])[O:21]C)C1=CC=CC=C1)[H]>>CCCCCCC1C(C(O[C:20](=[O:10])N1[H])C1=CC=CC=C1)[H].[O-:21]C 10=20;20,21=21"
